US07456164B2
1-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}methyl) piperazine
The title compound (187 mg, 59%) was prepared using 1-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}carbonyl)piperazine and lithium aluminium hydride similarly to the procedure used for example 142. 1H NMR (400 MHz, CDCl3) δ 1.30-1.33 (m, 3H), 1.46-1.54 (m, 4H), 1.78-1.81 (m, 4H), 1.98-2.05 (m, 4H), 2.09-2.12 (m, 6H), 2.23 (s, 2H), 2.53-2.57 (m, 4H), 2.62-2.71 (m, 6H), 4.01 (t, 2H), 6.83 (d, 2H), 7.26 (d, 2H). LRMS APCI+ m/z 386 [MH]+.

reactant | 1-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}carbonyl)piperazine | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCCCC1)C(=O)N1CCNCC1 | C24H37N3O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-({1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]cyclohexyl}methyl) piperazine | 187 mg, 59% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCCCC1)CN1CCNCC1 | C24H39N3O
